US07482354B2
Ethyl 6-[(dimethylamino)methylene]-1,4,4-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate
A solution of ethyl 1,4,4-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate (4.8 g, 19.18 mmol) in anhydrous dimethylformamide (30 mL) was treated with dimethylformamide di-tert-butylacetal (9.19 mL, 38.35 mmol) at 65° C. for 2 hours. The mixture was evaporated to dryness and the crude material was crystallized from hexane to give the title compound (5.1 g, 87% yield).

reactant | ethyl 1,4,4-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 19.18 mmol, 4.8 g | CN1N=C(C=2C(CCC(C12)=O)(C)C)C(=O)OCC | C13H18N2O3
reactant | dimethylformamide di-tert-butylacetal | 38.35 mmol, 9.19 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | Ethyl 6-[(dimethylamino)methylene]-1,4,4-trimethyl-7-oxo-4,5,6,7-tetrahydro-1H-indazole-3-carboxylate | 5.1 g, 87% yield | CN(C)C=C1CC(C=2C(=NN(C2C1=O)C)C(=O)OCC)(C)C | C16H23N3O3
